US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 2-fluoro-3-(pyridin-4-yl)benzeneboronic acid (61 mg, 0.28 mmol) as described in Example 7 part g), affording 5-(2-fluoro-3-pyridin-4-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine (37 mg, 47%). δH (360 MHz, CDCl3) 7.45-7.54 (4H, m), 7.65 (1H, d, J 4.2), 7.68-7.74 (1H, m), 7.84 (1H, d, J 8.4), 8.35 (1H, dd, J 2.5 and 8.8), 8.72-8.74 (2H, m), 9.34 (1H, d, J 4.2). m/z (ES+) 370 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 2-fluoro-3-(pyridin-4-yl)benzeneboronic acid | 0.28 mmol, 61 mg | FC1=C(C=CC=C1C1=CC=NC=C1)B(O)O | C11H9BFNO2
product | 5-(2-fluoro-3-pyridin-4-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 37 mg, 47% | FC1=C(C=CC=C1C1=CC=NC=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C20H11F4N3
